US07132421B2
To a solution of 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one (1.12 g, 4.731 mmol) in ethanol (15 mL) was added potassium carbonate (1.962 g, 14.19 mmol) and methoxyamine hydrochloride (494 mg, 5.914 mmol). The reaction mixture was heated at reflux for 12 h. Upon cooling to room temperature, the reaction mixture was filtered, and the white solids were washed with diethyl ether. The filtrate was concentrated in vacuo, and the residue was partitioned between diethyl ether and water. The product was extracted with diethyl ether (2×30 mL). The organic layers were washed with brine and dried over anhydrous sodium sulfate. The solids were then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32–63 μm, 60 Å silica gel) eluting with 1–2% ethyl acetate in hexanes yielded 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime (762 mg, 61%) as clear oil.

reactant | 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one | 4.731 mmol, 1.12 g | ClC1=CC=C(C=C1)C(CCC1CCCC1)=O | C14H17ClO
reactant | potassium carbonate | 14.19 mmol, 1.962 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxyamine hydrochloride | 5.914 mmol, 494 mg | Cl.CON
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime | 762 mg, 61% | CON=C(CCC1CCCC1)C1=CC=C(C=C1)Cl | C15H20ClNO
